US06509329B1
Synthesis of 2-(3,4,5-Trimethoxyphenyl)benzyl Alcohol
Ethyl 2-(3,4,5-trimethoxyphenyl)benzoate (655 mg) was dissolved in THF (20 mL), and to the solution lithium aluminum hydride (80 mg) was added at 0° C. under an argon atmosphere. The mixture was stirred at 0° C. for 1 hour as it is. A small amount of water and then sodium sulfate were added to the reaction mixture, and the reaction mixture was filtered through celite. The filtrate was concentrated under reduced pressure, and the resultant crude crystals were recrystallized from ethyl acetate-hexane to obtain the title compound.

reactant | Ethyl 2-(3,4,5-trimethoxyphenyl)benzoate | 655 mg | COC=1C=C(C=C(C1OC)OC)C1=C(C(=O)OCC)C=CC=C1 | C18H20O5
reactant | lithium aluminum hydride | 80 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3,4,5-Trimethoxyphenyl)benzyl Alcohol | COC=1C=C(C=C(C1OC)OC)C1=C(CO)C=CC=C1 | C16H18O4
